US04968708
2-Ethylimidazo[2,1-b]benzothiazole-3-methanol:
Furthermore, 3.88 g of 3-formyl-2-ethylimidazo[2,1-b]benzothiazole was suspended in 30 ml of methanol and 1.0 g of sodium borohydride was added to the suspension followed by refluxing for one hour. After completion of the reaction, the reaction solution was evaporated to dryness and the residue was washed with water. The crystals obtained were recrystallized from ethanol to give 2.48 g of the title compound.

reactant | 3-formyl-2-ethylimidazo[2,1-b]benzothiazole | 3.88 g | C(=O)C1=C(N=C2SC3=C(N21)C=CC=C3)CC | C12H10N2OS
reactant | sodium borohydride | 1.0 g | [BH4-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 2-Ethylimidazo[2,1-b]benzothiazole-3-methanol | 2.48 g | C(C)C=1N=C2SC3=C(N2C1CO)C=CC=C3 | C12H12N2OS
